US09351974B2
Step a: Synthesis of 2-chloro-N-(3-methylbutyl)-5-nitropyrimidin-4-amine
To a stirred solution of 2,4-dichloro-5-nitropyrimidine (13.8 g, 99.28 mmol) and 3-methylbutan-1-amine (7.0 g, 80.45 mmol) in dichloroethane (150 mL) was added imidazole (3.78 g, 55.58 mmol) at 0° C., the resulting mixture was stirred at 0° C. for 30 minutes then stirred at rt for 16 h. The solvent was removed under reduced pressure to give a crude residue was purified by silica gel column chromatography (eluent: 2% ethyl acetate in hexane) to yield 5.5 g of the desired compound. 1H NMR (CDCl3, 300 MHz) δ 0.98 (d, J=6.8 Hz, 6H), 1.56-1.81 (m, 3H), 3.60-3.75 (m, 2H), 8.40 (br s, 1H), 9.01 (s, 1H); MS m/z 245[M+H+].

reactant | 2,4-dichloro-5-nitropyrimidine | 99.28 mmol, 13.8 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 3-methylbutan-1-amine | 80.45 mmol, 7.0 g | CC(CCN)C | C5H13N
reactant | imidazole | 55.58 mmol, 3.78 g | N1C=NC=C1 | C3H4N2
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
product | 2-chloro-N-(3-methylbutyl)-5-nitropyrimidin-4-amine | 5.5 g | ClC1=NC=C(C(=N1)NCCC(C)C)[N+](=O)[O-] | C9H13ClN4O2
